US06965033B2
To a solution of 1 mmol of 2-chloro-5-hydroxy nitrobenzene in 5 mL of DMF was added 1.2 mmol of NaH at 0° C. After 30 min, allyl bromide was added and the mixture was stirred at rt for 16 h. Solvent was removed and the residue was washed with water and extracted with EtOAc to give 2-chloro-5-propenyloxy nitrobenzene.

reactant | 2-chloro-5-hydroxy nitrobenzene | 1 mmol | ClC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | NaH | 1.2 mmol | [H-].[Na+]
reactant | allyl bromide | C(C=C)Br | C3H5Br
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-chloro-5-propenyloxy nitrobenzene | ClC1=C(C=C(C=C1)OC=CC)[N+](=O)[O-] | C9H8ClNO3
